US08349824B2
a) (1-Methyl-1H-pyrazol-4-yl)-morpholin-4-yl-methanone
To a solution of 1-methyl-1H-pyrazole-4-carboxylic acid (2.00 g, 15.9 mmol) in DCM (100 ml) and TEA (8.80 ml, 63.5 mmol), EDCHCl (3.65 g, 19.0 mmol) and HOBt (2.57 g, 19.0 mmol) were added under a nitrogen atmosphere at rt and stirred for 30 min. Morpholine (1.68 ml, 19.0 mmol) was then added to the reaction mixture and stirring was continued for 18 h. On completion of reaction (monitored by TLC), the reaction mixture was diluted with water and DCM. The organic layer was separated, dried over Na2SO4 and concentrated to get the crude product. Column chromatography afforded the desired product as off white solid. Yield: 1.20 g (39%); MS: m/z=196.4 ([M+H]+)

reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | 15.9 mmol, 2.00 g | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | HOBt | 19.0 mmol, 2.57 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Morpholine | 19.0 mmol, 1.68 ml | N1CCOCC1 | C4H9NO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (1-Methyl-1H-pyrazol-4-yl)-morpholin-4-yl-methanone | CN1N=CC(=C1)C(=O)N1CCOCC1 | C9H13N3O2
